US04421758
To a solution of 1.34 g of 2-tosyloxymethyl-3,4-dihydro-2H-pyran and 1.06 g of 2,6-dichlorobenzyl alcohol in 25 ml of diethyl ether was added a catalytic amount (2 drops) of phosphorus oxytrichloride, and then the mixture was stirred at room temperature for 4 days. The colourless crystals which had precipitated were filtered off, giving 1.582 g of trans-6-(2,6-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran, melting at 123°-124° C. Triethylamine was then added to the mother liquor and the resulting mixture was evaporated under reduced pressure and the residue purified by column chromatography through silica gel, in essentially the same manner as described in Example 1(a), to give 338 mg of trans-6-(2,6-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran and 306 mg of cis-6-(2,6-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran.

reactant | 2-tosyloxymethyl-3,4-dihydro-2H-pyran | 1.34 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1OC=CCC1 | C13H16O4S
reactant | 2,6-dichlorobenzyl alcohol | 1.06 g | ClC1=C(CO)C(=CC=C1)Cl | C7H6Cl2O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
catalyst | phosphorus oxytrichloride | 2 drops | O=P(Cl)(Cl)Cl | Cl3OP
product | trans-6-(2,6-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran | 1.582 g | ClC1=C(CO[C@H]2CCC[C@@H](O2)COS(=O)(=O)C2=CC=C(C)C=C2)C(=CC=C1)Cl | C20H22Cl2O5S
